US08563561B2
a) Synthesis of 2-{3-[6-(1-methyl-1H-pyrazol-4-yl)-1,2,4-triazolo[4,3-a]-pyrimidin-3-ylmethyl]phenyl}pyrimidin-5-ol
4.03 g of 3-[3-(5-bromopyrimidin-2-yl)benzyl]-6-(1-methyl-1H-pyrazol-4-yl)-1,2,4-triazolo[4,3-a]pyrimidine are suspended in 18 ml of THF, heated to 80° C., and 2.86 g of bis(pinacolato)diboron, 2.65 g of potassium acetate and 126 mg of bis(triphenylphosphine)palladium(II)chloride are added and refluxed at 80° C. for 4 h [RM1]. The hot RM is filtered off with suction, rinsed with THF and evaporated to about 30 ml. 30 ml of water and 1.52 g of sodium perborate are then added and stirred at RT overnight. The mixture is acidified using 1 N HCl, THF is distilled off, the precipitate formed is filtered off with suction, washed with water, sucked dry and dried.

reactant | 3-[3-(5-bromopyrimidin-2-yl)benzyl]-6-(1-methyl-1H-pyrazol-4-yl)-1,2,4-triazolo[4,3-a]pyrimidine | 4.03 g | BrC=1C=NC(=NC1)C=1C=C(CC2=NN=C3N2C=C(C=N3)C=3C=NN(C3)C)C=CC1 | C20H15BrN8
reactant | bis(pinacolato)diboron | 2.86 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.65 g | C(C)(=O)[O-].[K+]
solvent | THF | 18 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 126 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-{3-[6-(1-methyl-1H-pyrazol-4-yl)-1,2,4-triazolo[4,3-a]-pyrimidin-3-ylmethyl]phenyl}pyrimidin-5-ol | CN1N=CC(=C1)C=1C=NC=2N(C1)C(=NN2)CC=2C=C(C=CC2)C2=NC=C(C=N2)O | C20H16N8O
